US05079247
N-[1-[(4-Chlorophenyl)methyl]benz[cd]indol-2(1H)-ylidene]-1H-imidazole-1-propanamine
A mixture of 2.5 g of 1-p-chlorophenylmethylbenz[cd]indole-2(1H)-thione (Cp), 1.1 g of 1H-imidazole -1-propanamine, 200 ml of ethyl alcohol, and 2.6 g of mercuric acetate is reacted as described in Example 3, giving 1.1 g of the desired product, mp. 90°-91° C.

reactant | 1-p-chlorophenylmethylbenz[cd]indole-2(1H)-thione | 2.5 g | ClC1=CC=C(C=C1)CN1C(C2=C3C(C=CC=C13)=CC=C2)=S | C18H12ClNS
reactant | 1H-imidazole -1-propanamine | 1.1 g | N1(C=NC=C1)CCCN | C6H11N3
solvent | ethyl alcohol | 200 ml | C(C)O | C2H6O
product | N-[1-[(4-Chlorophenyl)methyl]benz[cd]indol-2(1H)-ylidene]-1H-imidazole-1-propanamine | 1.1 g | ClC1=CC=C(C=C1)CN1C(C2=C3C(C=CC=C13)=CC=C2)=NCCCN2C=NC=C2 | C24H21ClN4
